US06599890B1
To a stirred, cold (0° C.) solution of (2R,4R)-1-(4-methoxy-benzenesulfonyl)-piperidine-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester (4.4 g, 10.6 mmol) in 30 mL of methylene chloride was added 10 mL of trifluoroacetic acid dropwise. The mixture was stirred for 1 hour at 0° C. and for 8 hours at ambient temperature. Concentration provided (2R,4R)-1-(4-methoxy-benzenesulfonyl)-piperidine-2,4-dicarboxylic acid 4-methyl ester, which was used in the subsequent step without purification.

reactant | (2R,4R)-1-(4-methoxy-benzenesulfonyl)-piperidine-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester | 10.6 mmol, 4.4 g | COC(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C19H27NO7S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R,4R)-1-(4-methoxy-benzenesulfonyl)-piperidine-2,4-dicarboxylic acid 4-methyl ester | COC(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C15H19NO7S
